US07632857B2
Procedure T′: A 15 mL dioxane/H2O (2:1) mixture of 4′-(tert-butyl-methyl-sulfamoyl)-biphenyl-4-carboxylic acid methyl ester (318 mg, 0.88 mmol) and LiOH—H2O (46 mg, 1.1 mmol) is stirred at room temperature overnight. The reaction mixture is concentrated, is diluted with EtOAc, shaken with 1 NHCl, and the layers are separated. The 1 N HCl layer is extracted with EtOAc and the combined organic layers are washed with brine, then dried over Na2SO4 and evaporated to give the intermediate 4′-(tert-butyl-methyl-sulfamoyl)-biphenyl-4-carboxylic acid (270 mg, 88% yield). MS (ES−) 346.1 (M−H)−

reactant | 4′-(tert-butyl-methyl-sulfamoyl)-biphenyl-4-carboxylic acid methyl ester | 0.88 mmol, 318 mg | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)S(N(C)C(C)(C)C)(=O)=O | C19H23NO4S
reactant | LiOH—H2O | 1.1 mmol, 46 mg | O[Li].O
solvent | dioxane H2O | 15 mL | O1CCOCC1.O
product | 4′-(tert-butyl-methyl-sulfamoyl)-biphenyl-4-carboxylic acid | 270 mg, 88% yield | C(C)(C)(C)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C | C18H21NO4S
